US07371743B2
(a) ethyl 3-(2-benzyloxy-ethoxy)-propionate
8.53 ml (60.0 mmol) benzyloxy-ethanol are combined with 13 mg (0.57 mmol) sodium in 40 ml THF, then when it has dissolved 5.95 ml (54.7 mmol) ethyl acrylate are added under an argon atmosphere and stirred for 20 hours at ambient temperature. After neutralising with 0.6 ml 1-molar hydrochloric acid the reaction mixture is evaporated down i. vac., the residue is taken up in sat. sodium chloride solution and extracted with ethyl acetate. The combined organic phases are washed with sat. sodium chloride solution, dried over sodium sulphate and evaporated down i. vac. The residue is purified by chromatography on silica gel (eluant: petroleum ether/ethyl acetate=4:1).

reactant | benzyloxy-ethanol | 60.0 mmol, 8.53 ml | C(C1=CC=CC=C1)OC(C)O | C9H12O2
reactant | sodium | 0.57 mmol, 13 mg | [Na] | Na
reactant | ethyl acrylate | 54.7 mmol, 5.95 ml | C(C=C)(=O)OCC | C5H8O2
reactant | hydrochloric acid | 1-molar, 0.6 ml | Cl | ClH
reactant | THF | 40 ml | C1CCOC1 | C4H8O
product | ethyl 3-(2-benzyloxy-ethoxy)-propionate | C(C1=CC=CC=C1)OCCOCCC(=O)OCC | C14H20O4
